### PR TITLE
feat(OEIS/113019): complete classification

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by mo271** [comment]
needs merge after #4953

File: FormalConjectures/OEIS/113019.lean [hunk 1]
```diff
@@ -59,9 +59,12 @@ theorem a_4 : a 4 = 1 := by native_decide
 /--
 $n=1$ and $32$ are fixed points. Are there any others?
 
-Yes: 9^9 = 387420489 is also a fixed point. - [Kenta Kitamura](https://oeis.org/wiki/User:Kenta_Kitamura), Aug 14 2026
+Yes: `387420489 = 9 ^ 9` is a third fixed point, so the proposed
+classification is false.
```
Comment (mo271) [inline FormalConjectures/OEIS/113019.lean]:
```suggestion
Yes: 9^9 = 387420489 is also a fixed point. 
- [Kenta Kitamura](https://oeis.org/wiki/User:Kenta_Kitamura), Aug 14 2026
```

File: FormalConjectures/OEIS/113019.lean [hunk 2]
```diff
@@ -59,9 +59,12 @@ theorem a_4 : a 4 = 1 := by native_decide
...
 $n=1$ and $32$ are fixed points. Are there any others?
 
-Yes: 9^9 = 387420489 is also a fixed point. - [Kenta Kitamura](https://oeis.org/wiki/User:Kenta_Kitamura), Aug 14 2026
+Yes: 9^9 = 387420489 is also a fixed point. 
+- [Kenta Kitamura](https://oeis.org/wiki/User:Kenta_Kitamura), Aug 14 2026
 -/
-@[category research solved, AMS 11]
+@[category research solved, AMS 11,
+  formal_proof using lean4 at
+    "https://github.com/KitaKen1/oeis-a113019-counterexample/blob/dc68e0b55c834b24c9e029525deaa562ae144296/lean/OeisA113019FC.lean#L14-L25"]
```
Comment (mo271) [inline FormalConjectures/OEIS/113019.lean]:
```suggestion
@[category research solved, AMS 11]
```

File: FormalConjectures/OEIS/113019.lean [hunk 3]
```diff
@@ -71,4 +72,13 @@ theorem conjecture : answer(False) ↔ ∀ n : ℕ, a n = n → n = 1 ∨ n = 32
...
     rcases h 387420489 hfixed with h | h <;> omega
 
+/--
+$n=1$ and $32$ and $387420489 = 9^9$ are the only fixed points.
+-/
+@[category research solved, AMS 11, formal_proof using formal_conjectures at
+"https://github.com/google-deepmind/formal-conjectures/blob/7bc39939333bfaacfa9f7a8381e5287dc0491f86/FormalConjectures/OEIS/113019.lean#L191"]
+theorem three_fixed_points : ∀ n : ℕ, a n = n → n = 1 ∨ n = 32 ∨ n = 387420489 := by
+  sorry
+-/
```
Comment (mo271) [inline FormalConjectures/OEIS/113019.lean]:
```suggestion
```

File: FormalConjectures/OEIS/113019.lean [hunk 4]
```diff
@@ -71,4 +72,12 @@ theorem conjecture : answer(False) ↔ ∀ n : ℕ, a n = n → n = 1 ∨ n = 32
       simp [a]
     rcases h 387420489 hfixed with h | h <;> omega
 
+/--
+$n=1$ and $32$ and $387420489 = 9^9$ are the only fixed points.
+-/
+@[category research solved, AMS 11, formal_proof using formal_conjectures at
+"https://github.com/google-deepmind/formal-conjectures/blob/7bc39939333bfaacfa9f7a8381e5287dc0491f86/FormalConjectures/OEIS/113019.lean#L191"]
+theorem three_fixed_points : ∀ n : ℕ, a n = n → n = 1 ∨ n = 32 ∨ n = 387420489 := by
```
Comment (kghristova) [inline FormalConjectures/OEIS/113019.lean:80]: do you want to have this in the current format or the answer(sorry) \iff format? Both are fine, I was thinking consistency would imply we go for the answer (sorry) option :)
